US06380387B1
4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine was prepared from 4-(1, 3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester and 1-(2-methoxyethyl)cyclopentane carboxylic acid using the general procedures described in example 19 and was obtained as an amorphous white solid. ES-HRMS m/e calcd for C27H37N3O6 (M+Na) 522.2575, found 522.2581.

reactant | 4-(1, 3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)CC)=O)CC)=O)=O | C19H25N3O4
reactant | 1-(2-methoxyethyl)cyclopentane carboxylic acid | COCCC1(CCCC1)C(=O)O | C9H16O3
product | 4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine | C(C)N1C(N(C(C(=C1C)C1=CC=C(C[C@H](NC(=O)C2(CCCC2)CCOC)C(=O)O)C=C1)=O)CC)=O | C27H37N3O6
